US05580866
A solution of ethanesulphonyl chloride (3.8 g) in dichloromethane (50 ml) was added dropwise at room temperature to a stirred solution of 2,3,4,5-tetrahydro-1,4-benzothiazepine (4.29 g, prepared as described in the first paragraph of Example 6 above) in dichloromethane (100 ml). The reaction mixture was stirred at room temperature for one hour, washed with water, dried and the solvent was removed by evaporation. Purification of the residue by flash chromatography using trichloromethane as eluent gave 4-ethylsulphonyl-2,3,4,5-tetrahydro-1,4-benzothiazepine, which was recrystallised from hexane. Yield 4.25 g (m.p. 78°-80° C.).

reactant | ethanesulphonyl chloride | 3.8 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | S1CCNCC2=C1C=CC=C2 | C9H11NS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-ethylsulphonyl-2,3,4,5-tetrahydro-1,4-benzothiazepine | C(C)S(=O)(=O)N1CCSC2=C(C1)C=CC=C2 | C11H15NO2S2
